US05576321
Preparation of (2S)-(+)-3-[4-(6-chloro-3-indolyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(4-indolyloxy)-2-propanol
To 5 mL of dry ethanol were added 6-chloro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole (1.54 g, 6.61 mmol) and (S)-(+)-4-(oxiranylmethoxy)-1H-indole (1.25 g, 6.61 mmol). The mixture was heated at the reflux temperature for about 6 hours, and was then cooled and concentrated. The residue was purified by silica gel chromatography with 95/5 chloroform/methanol. The product was isolated as a yellow foam. Yield 1.52 g (55%). mp 200°-202° C. FDMS m/e=421 (M+ of free base). α[D]589 =+4.39 (c=1.00, dimethylsulfoxide)

reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | 6-chloro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 6.61 mmol, 1.54 g | ClC1=CC=C2C(=CNC2=C1)C=1CCNCC1 | C13H13ClN2
reactant | (S)-(+)-4-(oxiranylmethoxy)-1H-indole | 6.61 mmol, 1.25 g | O1[C@@H](C1)COC1=C2C=CNC2=CC=C1 | C11H11NO2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | (2S)-(+)-3-[4-(6-chloro-3-indolyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(4-indolyloxy)-2-propanol | ClC1=CC=C2C(=CNC2=C1)C=1CCN(CC1)C[C@@H](COC1=C2C=CNC2=CC=C1)O | C24H24ClN3O2
